US07060827B2
In like manner to N2,N4-bis(3-hydroxyphenyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine, 2,4-dichloro-5-ethoxycarbonylpyrimidine and 7-aminoindazole were reacted to yield N2,N4-bis(7-indazolyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 8.70 (s, 1H), 7.54 (d, 2H J=8.4 Hz), 7.37 (m, 6H), 4.3 (q, 2H, J=7.0 Hz), 1.33 (3H, J=7 Hz); LCMS: ret. time 23.61 min.; purity: 94%; MS (m/e): 415 (MH+).

reactant | 2,4-dichloro-5-ethoxycarbonylpyrimidine | ClC1=NC=C(C(=N1)Cl)C(=O)OCC | C7H6Cl2N2O2
reactant | 7-aminoindazole | NC=1C=CC=C2C=NNC12 | C7H7N3
product | N2,N4-bis(7-indazolyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine | N1N=CC2=CC=CC(=C12)NC1=NC=C(C(=N1)NC=1C=CC=C2C=NNC12)C(=O)OCC | C21H18N8O2
